US04123251
4-(2-trifluoroacetamido-4-tert-butylphenyl)morpholine
A mixture of 5.0 g. (21 mmoles) of 4-(2-amino-4-tert-butylphenyl)morpholine, 10.0 g. (48 mmoles) of trifluoroacetic anhydride and 2 drops of pyridine in 40 ml. of benzene was heated at 60° C. for 1 hour and then allowed to stand at room temperature overnight. The mixture was then poured into an excess of ice-water, neutralized with sodium carbonate and the organic phase separated. The benzene solution was dried over anhydrous sodium sulfate, filtered and the solvent removed by evaporation under reduced pressure to give the desired product as a dark red solid (5.1 g.; 74%) melting at 89°-90° C.

reactant | 4-(2-amino-4-tert-butylphenyl)morpholine | 21 mmoles | NC1=C(C=CC(=C1)C(C)(C)C)N1CCOCC1 | C14H22N2O
reactant | trifluoroacetic anhydride | 48 mmoles | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
catalyst | pyridine | 2 drops | N1=CC=CC=C1 | C5H5N
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 4-(2-trifluoroacetamido-4-tert-butylphenyl)morpholine | 5.1 g, 74% | FC(C(=O)NC1=C(C=CC(=C1)C(C)(C)C)N1CCOCC1)(F)F | C16H21F3N2O2
